US07812025B2
4-Biphenyl-4-yl-N-pyridin-3-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (249 mg, 0.923 mmol), 1-biphenyl-4-ylpiperazine (200 mg, 0.839 mmol) and diisopropylethylamine (0.292 ml, 1.68 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 16 hours. Water was poured into the reaction solution, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the titled compound (163 mg, 54.2%) as solid product.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.923 mmol, 249 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-biphenyl-4-ylpiperazine | 0.839 mmol, 200 mg | C1(=CC=C(C=C1)N1CCNCC1)C1=CC=CC=C1 | C16H18N2
reactant | diisopropylethylamine | 1.68 mmol, 0.292 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-Biphenyl-4-yl-N-pyridin-3-ylpiperazine-1-carboxamide | 163 mg, 54.2% | C1(=CC=C(C=C1)N1CCN(CC1)C(=O)NC=1C=NC=CC1)C1=CC=CC=C1 | C22H22N4O
